US07855297B2
By the reaction and treatment in the same manner as in Example 12 using 5-benzyloxy-1,2,3,4-tetrahydronaphthalene-1-carboxylic acid (0.57 g) and [(4-dimethylaminophenyl)methyl]phenylamine (0.61 g) as starting materials, 5-benzyloxy-N-[(4-dimethylaminophenyl)methyl]-N-phenyl-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.80 g) was obtained. By the reaction and treatment in the same manner as in Example 17 using this compound, N-[(4-dimethylaminophenyl)methyl]-5-hydroxy-N-phenyl-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.083 g) was obtained. melting point: 138-143° C.

reactant | 5-benzyloxy-1,2,3,4-tetrahydronaphthalene-1-carboxylic acid | 0.57 g | C(C1=CC=CC=C1)OC1=C2CCCC(C2=CC=C1)C(=O)O | C18H18O3
reactant | [(4-dimethylaminophenyl)methyl]phenylamine | 0.61 g | CN(C1=CC=C(C=C1)CNC1=CC=CC=C1)C | C15H18N2
product | 5-benzyloxy-N-[(4-dimethylaminophenyl)methyl]-N-phenyl-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.80 g | C(C1=CC=CC=C1)OC1=C2CCCC(C2=CC=C1)C(=O)N(C1=CC=CC=C1)CC1=CC=C(C=C1)N(C)C | C33H34N2O2
